data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_211691_1,[C:1](=[C:4]([C:3]([H:16])([H:17])[H:18])[N:8]([C:2]([H:13])([H:14])[H:15])/[C:5](=[N:7]/[O:6][H:9])[H:12])([H:10])[H:11]>>[C:1](/[C:4]([C:3]([H:16])([H:17])[H:18])=[N:8]/[C:2]([H:13])([H:14])[H:15])(/[C:5](=[N:7]/[O:6][H:9])[H:12])([H:10])[H:11],59.76623750002133
MR_561204_0,[C:1]([N:2](/[C:3](=[N:5]\[H:7])[H:8])[O:4][H:6])([H:9])([H:10])[H:11]>>[C:1]([N:2]1[C@:3]([O:4][H:6])([H:8])[N:5]1[H:7])([H:9])([H:10])[H:11],65.26941250000249
MR_592603_1,[C:1]([C:3]([H:18])([H:19])[H:20])([C:4]([H:21])([H:22])[H:23])([C:6]1([N:5]([O:9][H:11])[H:12])[C:2]([N:8]([H:16])[H:17])([H:13])[O:10]1)[N:7]([H:14])[H:15]>>[C:1]([C:2]([C:6]([N:5]([O:9][H:11])[H:12])=[O:10])([N:8]([H:16])[H:17])[H:13])([C:3]([H:18])([H:19])[H:20])([C:4]([H:21])([H:22])[H:23])[N:7]([H:14])[H:15],25.80028999999257
MR_318374_0,[C@@:1]([C@:2]([N:5]([H:13])[H:14])([O:7][H:9])[H:10])([C:3]([H:15])([H:16])[H:17])([N:4]([H:11])[H:12])[O:6][H:8]>>[C@:1]([C@@:2]([N:5]([H:13])[H:14])([O:6][H:8])[H:10])([C:3]([H:15])([H:16])[H:17])([N:4]([H:11])[H:12])[O:7][H:9],71.65673499999855
MR_61985_0,[C:1]([C:2](/[C:3]([N:4]([H:8])[H:9])=[C:6](/[N:5]([H:10])[H:11])[H:12])=[O:7])([H:13])([H:14])[H:15]>>[C:1]([C:2]1=[C:3]([N:4]([H:8])[H:9])[C@@:6]([N:5]([H:10])[H:11])([H:12])[O:7]1)([H:13])([H:14])[H:15],42.06634499998003
MR_111954_1,[C:1]([N:5]([C:2]([H:12])([H:13])[H:14])/[C:6]([C:4]([H:18])([H:19])[H:20])=[N:8]\[C:3]([H:15])([H:16])[H:17])([O:7][H:9])([H:10])[H:11]>>[C:1]([O:7][H:9])([N:8]([C:3]([H:15])([H:16])[H:17])/[C:6]([C:4]([H:18])([H:19])[H:20])=[N:5]/[C:2]([H:12])([H:13])[H:14])([H:10])[H:11],65.39742249996465
MR_266485_0,[C:1]12([C:2]([C:5]([H:12])([H:15])[H:16])([C:6]([H:13])([H:14])[H:17])[O:7]1)[C:3]([H:8])([H:9])[C:4]2([H:10])[H:11]>>[C:1]12([C:2]([C:5]([H:12])([H:15])[H:16])([C:6]([H:13])([H:14])[H:17])[O:7]1)[C:3]([H:8])([H:9])[C:4]2([H:10])[H:11],69.2220349999748
MR_299394_1,[C:1]([C:3]([C:2]([O:5][H:10])=[O:7])=[O:8])([C:4]([O:6][H:11])=[O:9])([H:12])[H:13]>>[C:1]1([H:12])([H:13])[C:3](=[O:8])[C:2]([O:5][H:10])([O:6][H:11])[O:7][C:4]1=[O:9],59.88860000003342
MR_255024_1,[C:1]1([H:12])([H:13])[N:4]([C:2]([H:15])([H:16])[H:17])[N:3]([O:8][H:9])[C:5]([N:6]([H:10])[H:11])=[C:7]1[H:14]>>[C:1]1([H:12])([H:13])[N:4]([C:2]([H:15])([H:16])[H:17])[C@@:7]1(/[C:5](=[N:3]/[O:8][H:9])[N:6]([H:10])[H:11])[H:14],37.38017500000496
MR_469539_0,[C:1](/[C:3](=[C:2]([N:4]([H:8])[H:9])/[N:6]=[N:7]\[H:12])[N:5]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1]([C:3]1([N:5]([H:10])[H:11])[C:2]([N:4]([H:8])[H:9])=[N:6][N:7]1[H:12])([H:13])([H:14])[H:15],44.77275249999551
MR_584524_2,[C:1]([C:3](=[O:6])[O:8][C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])([N:5]([H:12])[H:13])([O:7][H:10])[H:11]>>[C:1]([C:3]([O:6][C:4]([C:2]([H:14])([H:15])[H:16])=[O:9])=[O:8])([N:5]([H:12])[H:13])([O:7][H:10])[H:11],19.381592500004388
MR_35665_1,[C:1]([C:5]([H:20])([H:22])[H:23])([C:6]([H:21])([H:24])[H:25])([N:7]([C:2]([H:11])([H:12])[H:13])/[C:8]([C:4]([H:17])([H:18])[H:19])=[N:9]/[C:3]([H:14])([H:15])[H:16])[H:10]>>[C:1]([C:5]([H:20])([H:22])[H:23])([C:6]([H:21])([H:24])[H:25])([N:9]([C:3]([H:14])([H:15])[H:16])/[C:8]([C:4]([H:17])([H:18])[H:19])=[N:7]\[C:2]([H:11])([H:12])[H:13])[H:10],63.211212499991234
MR_57766_0,[C:1](/[C:7](=[C:3](\[N:2]([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])[N:6]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1](/[C:7]([N:2]([N:4]([H:8])[H:9])[N:5]([H:10])[H:11])=[C:3](/[N:6]([H:12])[H:13])[H:14])([H:15])([H:16])[H:17],3.684052500008335
MR_177888_0,[C:1]([N:3]([C:4]([N:2]([N:6]=[C:5]([H:13])[H:14])[H:8])=[O:7])[H:9])([H:10])([H:11])[H:12]>>[C:1]([N:3]([C:5]([N:6]1[N:2]([H:8])[C:4]1=[O:7])([H:13])[H:14])[H:9])([H:10])([H:11])[H:12],61.9718999999813
MR_338340_0,[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])/[N:6]=[C:4](/[O:5][H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1](/[N:3]=[N:6]/[C:4]([C:2]([H:12])([H:13])[H:14])([O:5][H:7])[H:8])([H:9])([H:10])[H:11],72.55154999998652
MR_428867_0,[C:1]1([C:4]([H:18])([H:19])[H:20])([N:8]([H:11])[H:12])[C:2]([H:13])([H:14])[N:6]([H:10])[C:7](=[O:9])[N:5]1[C:3]([H:15])([H:16])[H:17]>>[C:1](\[C:2]([N:6](/[C:7](=[N:5]/[C:3]([H:15])([H:16])[H:17])[O:9][H:12])[H:10])([H:13])[H:14])([C:4]([H:18])([H:19])[H:20])=[N:8]/[H:11],55.68121250002662
MR_7262_1,[C:1](/[C:4]([C:2]([H:12])([H:13])[H:14])=[C:5](/[C:3]([H:15])([H:16])[H:17])[H:11])([O:6][O:7][H:8])([H:9])[H:10]>>[C:1]1([H:9])([H:10])[C:4]([C:2]([H:12])([H:13])[H:14])([C:5]([C:3]([H:15])([H:16])[H:17])([O:7][H:8])[H:11])[O:6]1,62.13504999999742
MR_327602_1,[C:1]1([O:7][H:8])([H:9])[C@:2]([C:4]([C:3](=[C:5]([H:14])[H:15])[H:11])([H:12])[H:13])([H:10])[O:6]1>>[C:1]([C:3](=[C:5]([H:14])[H:15])[H:11])([O:6][C:2](=[C:4]([H:12])[H:13])[H:10])([O:7][H:8])[H:9],58.74529499995944
MR_184328_2,[C:1](/[C:3](=[N:2]/[O:8][H:9])[C:6]([N:4]([H:10])[H:11])([C:5](=[C:7]([H:17])[H:18])[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[C:3]([N:2]([C:5](=[C:7]([H:17])[H:18])[H:12])[O:8][H:9])=[C:6](\[N:4]([H:10])[H:11])[H:13])([H:14])([H:15])[H:16],73.17591250001527
